US09382222B2
To a solution of (4-fluoro-phenyl)-isobutyl-amine (250 mg, 1.5 mmol) in DCM (5 mL) was added pyridine (242 μL, 3.0 mmol) followed by 6-chloropyridine-3-sulfonyl chloride (379 mg, 1.8 mmol) and the reaction was stirred at room temperature for 2 hours. Water and saturated aqueous NaHCO3 were added and then extracted with DCM, filtered through a phase separator, concentrated then purified by silica gel column chromatography (0-20% EtOAc in cyclohexane) to give 6-chloro-pyridine-3-sulfonic acid (4-fluoro-phenyl)-isobutyl-amide (411 mg, 67%). LCMS (m/z, Method A) ES+ 343 [M+1]+.

reactant | (4-fluoro-phenyl)-isobutyl-amine | 1.5 mmol, 250 mg | FC1=CC=C(C=C1)NCC(C)C | C10H14FN
reactant | pyridine | 3.0 mmol, 242 μL | N1=CC=CC=C1 | C5H5N
reactant | 6-chloropyridine-3-sulfonyl chloride | 1.8 mmol, 379 mg | ClC1=CC=C(C=N1)S(=O)(=O)Cl | C5H3Cl2NO2S
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
solvent | Water | O | H2O
product | 6-chloro-pyridine-3-sulfonic acid (4-fluoro-phenyl)-isobutyl-amide | 411 mg, 67% | FC1=CC=C(C=C1)N(S(=O)(=O)C=1C=NC(=CC1)Cl)CC(C)C | C15H16ClFN2O2S
